US06743802B2
Following the procedure of EXAMPLE 15, but substituting the product 2-bromo-5-(1-hydroxy-1-methylethyl)pyridine from present Step 1 for N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide and trimethylsilylacetylene for 2-phenyl-3-butyn-2-ol, the 5-(1-hydroxy-1-methylethyl)-2-[(trimethylsilyl)ethynyl]pyridine compound was obtained.

reactant | 2-bromo-5-(1-hydroxy-1-methylethyl)pyridine | BrC1=NC=C(C=C1)C(C)(C)O | C8H10BrNO
reactant | N-isopropyl-1-(3-bromophenyl)-1,4-dihydro[1,8]naphthyridin-4-one-3-carboxamide | C(C)(C)NC(=O)C1=CN(C2=NC=CC=C2C1=O)C1=CC(=CC=C1)Br | C18H16BrN3O2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | 2-phenyl-3-butyn-2-ol | C1(=CC=CC=C1)C(C)(C#C)O | C10H10O
product | 5-(1-hydroxy-1-methylethyl)-2-[(trimethylsilyl)ethynyl]pyridine | OC(C)(C)C=1C=CC(=NC1)C#C[Si](C)(C)C | C13H19NOSi
